US08039487B2
A solution of (R)-2-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester (1.31 g, 6 mmol) in dioxane (20 mL) was treated under argon with Lawesson's reagent (1.16 g, 3 mmol). The mixture was stirred at room temperature overnight. The volatiles were evaporated and the resulting white solid purified by flash chromatography (heptane/ethyl acetate gradient) to yield (R)-2-thiocarbamoyl-piperidine-1-carboxylic acid tert-butyl ester as a white solid (0.74 g, 47%), MS (ISP): 245.4 (M+H)+..

reactant | (R)-2-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 6 mmol, 1.31 g | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(N)=O | C11H20N2O3
reactant | Lawesson's reagent | 3 mmol, 1.16 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (R)-2-thiocarbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 0.74 g, 47% | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)C(N)=S | C11H20N2O2S
